US07618961B2
Ethyl 2-(2-{[(4-bromophenyl)sulfonyl]amino}-1,3-thiazol-4-yl)acetate
The title compound was prepared from ethyl 2-amino-4-thiazolylacetate and 4-bromobenzenesulfonyl chloride according to METHOD A, giving 0.14 g (31%) of a pink solid after recrystallization from acetone/ether/petroleum ether: mp 183° C.; MS (Ionspray, [M+H]+) m/z 405; Anal. Calcd (found) for C13H13BrN2O4S2: C, 38.5 (38.5)%, H, 3.2 (3.0)%, N, 6.9 (6.6)%

reactant | ethyl 2-amino-4-thiazolylacetate | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | 4-bromobenzenesulfonyl chloride | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
product | Ethyl 2-(2-{[(4-bromophenyl)sulfonyl]amino}-1,3-thiazol-4-yl)acetate | BrC1=CC=C(C=C1)S(=O)(=O)NC=1SC=C(N1)CC(=O)OCC | C13H13BrN2O4S2
